US05892048
To a solution of 1.0 g of N-methyl-N-(p-toluenesulfonyl)-2,6-dichlorobenzohydrazonoyl chloride in 10 ml of o-dichlorobenzene at room temperature, were added 0.46 g of p-chlorobenzyl cyanide and 0.41 g of anhydrous aluminum chloride. The reaction mixture was heated at 120° C. for 30 minutes. Aster cooling, the section mixture was poured into iced-water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to afford 0.7 g of 5-(4-chlorobenzyl)-3 (2,6-dichlorophenyl)-1-methyl-1H-1,2,4-triazole. m.p.112°-115° C.

reactant | N-methyl-N-(p-toluenesulfonyl)-2,6-dichlorobenzohydrazonoyl chloride | 1.0 g | CN(N=C(C1=C(C=CC=C1Cl)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C | C15H13Cl3N2O2S
reactant | p-chlorobenzyl cyanide | 0.46 g | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | aluminum chloride | 0.41 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | o-dichlorobenzene | 10 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 5-(4-chlorobenzyl)-3 (2,6-dichlorophenyl)-1-methyl-1H-1,2,4-triazole | 0.7 g | ClC1=CC=C(CC2=NC(=NN2C)C2=C(C=CC=C2Cl)Cl)C=C1 | C16H12Cl3N3
